US04420479
1-(Thiazin-2-yl)-2-amino-6-(α-hydroxy-α-aminocarbonylmethylbenzyl)benzimidazole.
To a stirred cold (-78° C.) solution of 37.5 ml. of 1.6 molar n-butyl lithium in 50 ml. of tetrahydrofuran was added dropwise over one hour a solution of 50 ml. of tetrahydrofuran containing 14.6 ml. of bistrimethylsilylacetamide. Following the addition, a solution of 4.0 g. of 1-(thiazin-2-yl)-2-amino-6-benzoylbenzimidazole in 300 ml. of tetrahydrofuran was added dropwise over one hour. The reaction mixture was stirred for an additional three hours, and then diluted with 300 ml. of water and allowed to warm to room temperature. The aqueous mixture was acidified with 1 N hydrochloric acid. The organic layer was separated and removed, and the aqueous acid layer was neutralized to pH 7.0 with 1 N sodium hydroxide. The aqueous mixture was extracted two times with ethyl acetate, and the combined extracts were washed with water and with brine, dried, and the solvent was removed by evaporation under reduced pressure to provide an oil. The oil was triturated with diethyl ether and the solid was dissolved in dilute hydrochloric acid. A precipitate formed and was filtered and dried to give 790 mg. of 1-(thiazin-2-yl)-2-amino-6-(α-hydroxy-α-aminocarbonylmethylbenzyl)benzimidazole hydrochloride.

reactant | n-butyl lithium | 1.6 molar | C(CCC)[Li]
reactant | bistrimethylsilylacetamide | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 1-(thiazin-2-yl)-2-amino-6-benzoylbenzimidazole | S1N(C=CC=C1)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=O)N | C18H14N4OS
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | 1-(thiazin-2-yl)-2-amino-6-(α-hydroxy-α-aminocarbonylmethylbenzyl)benzimidazole hydrochloride | Cl.S1N(C=CC=C1)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)(CC(=O)N)O)N
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14.6 ml | O1CCCC1 | C4H8O
product | 1-(Thiazin-2-yl)-2-amino-6-(α-hydroxy-α-aminocarbonylmethylbenzyl)benzimidazole | S1N(C=CC=C1)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)(CC(=O)N)O)N | C20H19N5O2S
